Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
Stereotactic brain biopsy
Bone marrow biopsy
PICC line insertion

 
History of Present Illness:
Mrs. ___ is a very nice ___ year-old ___ with 
DM2, HL, HTN, OA and recent diagnosis of B-cell lymphoma 
(non-Hodkin) coming with weakness of both legs and inability to 
walk. She was in her prior state of health until aproximately 1 
month ago when her legs started to swell more than normal 
(left>right). There was no skin rash at this time. She started 
using TEDs (knee-high) without improvement in her symptoms. 
There was no clear precipitant such as change in her diet, 
excercise activity, changes in her medications. She was seen by 
a physician in her PCP's office who sent her to the ED for 
concern of "blockage in the vessels". Work up was negative and 
she was sent home. Then, she was evaluated by PCP two weeks ago 
who was concerned by new rash in the left leg. She was refered 
to dermatology who evaluated her and obtained a skin biopsy. 8 
days ago she was called home and told that the biopsy results 
had shown B-cell lymphoma. She was refered to an oncologist at 
___ who evaluated her 4 days ago and had 
multiple CT scans performed. They had planned to meet 5 days 
from now to further discuss treatment, but most likely was going 
to be some for of chemotherapy including Rituximab.  
.  
Since then, she has had multiple unwitness falls at home. 
Appartently she has not hit her head or lost conciousness. She 
was found in the floor by her health aid, without any loss of 
sphincter control, coherent and EMS were called. They evaluated 
her and recommended going to ED, but she refused. Subsequently, 
she was not feeling good and call her son who was on his way to 
see her. He recommended her to check her sugars and she was too 
weak to walk and get her glucometer, which was only a couple of 
yards away. The family got concerned and brought her to our 
emergency room for further evaluation.  
.  
When EMS arrived she was nauseous and vomitted x1 (bilous). She 
complained of ___ pain in both legs and loss of conciousness. 
She was put on ___ and transfer to a stretcher.She denied 
any CP, SOB, abdominal pain.  
.  
Of note, since she got informed about her cancer diagnosis 8 
days ago family states that she has been mildly confused. She is 
A&O X3 and is able to talk, but she looks worried and 
occasionaly makes comments that ___ make sence. The family 
thinks it is the shock of the news. She has been afebrile, her 
weight has been stable, she denies any night sweats, chills, 
rigors, changes in her bowel movements, tremors, abnormal 
movements, episodes of LOC.  
.  
The initial VS in the ER were: 99.6 80 154/81 16 97% RA. Her VS 
were stable throught the ED visit. She was alert and oriented 
x3, moving all extremities, No cervical spine tenderness. Her 
ECG showed (per ED read) STD III aVF, TWI V1, SR@80. Her labs 
were significant for WBC 8.5, HCT 35.9, PLT 268, Na 127, K 9.0 
(hemolyzed), Cl 92, CO2 27, BUN 30, Cr 1.5 (unkown baseline), 
glucose 129, repeat K 4.0. Her imaging included a CT of the neck 
that only showed degenerative changes, a 2-cm left frontal mass 
with neighboring vasogenic edema and mild neighboring mass 
effect, normal CXR and hip x-rays. Neurosurgery was consulted 
who did not find any focal deficits. Family was NOT interested 
in surgical approach whatsoever. Dilantin was recommended for 
seizure prophylaxis as well as MRI +/-. No comments were made on 
steroids. She is being admited for further work up and 
management of her weakness and mass. Her VS prior to transfer 
were: hr 68 155/57 20 100RA.  

 
Past Medical History:
- Diffuse large B cell lymphoma: Diagnosed ___ ___  
- Glaucoma  
- DM2 seen by ___  
- Chronic kidney disease  
- Hyperlipidemia  
- Hypertension  
- Osteoarthritis  
- Iron def anemia  
- s/p bilateral TKR  

 
Social History:
___
Family History:
- Brother with brain cancer diagnosed in his ___  
- No family history of premature CAD, SCD, stroke.  

 
Physical Exam:
Admission:
VITAL SIGNS - Temp 98.3 F, BP 146/64 mmHg, HR 73 BPM, RR 20 X', 
O2-sat 99% RA  

 
GENERAL - well-appearing woman in NAD, comfortable, appropriate, 
not jaundiced (skin, mouth, conjuntiva), A&O x3 (month and year; 
not exact date)  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding.  
EXTREMITIES - WWP, no c/c, ++/+++, 2+ peripheral pulses 
(radials, DPs)  
SKIN - eruthematous rash with some blisters in both knees; 
erythematous rash in left leg of aprox 2 cm in diameter  
LYMPH - no cervical, axillary, or inguinal LAD  
NEUROLOGIC:  
Mental status: Awake and alert, cooperative with exam, normal 
affect.  
Cranial Nerves:  
Pupils equally round and reactive to light, 4 to 2 mm 
bilaterally. Visual fields are full to confrontation. Non 
papilledema on fundoscopic exam. Extraocular movements intact 
bilaterally, no nystagmus. Sensation intact V1- V3. Facial 
movement symmetric. Hearing normal to finger rub.  
Palate elevation symmetrical. Sternocleidomastoid and trapezius 
normal bilaterally. Tongue midline, movements intact.  
.  
___:  
Defered.  
.  
Cerebellum: Normal hands up & down; normal finger-nose, did not 
walk patient.  
.  
Motor:  
Normal bulk bilaterally. Tone normal. No observed myoclonus or 
tremor. No pronator drift. RAMs normal.  
D Del Tri Bi WF WE FE FF IP H Q DF PF TE TF  
R ___ 4 4  
L ___ 4 4  
.  
Sensation: Intact to light touch, throughout. No extinction to  
DSS  
.  
Reflexes:  
Trace and symmetric throughout.  
Toes downgoing bilaterally.  
Reflexes: B T Br Pa Pl  
Right ___ 3 3  
Left ___ 3 3  
.  
Coordination: good finger tapping, normal RAM. no intention  
tremor.  
.  
Gait: Not evaluated.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+ 

Discharge physical exam
Tm98.3, Tc 98.2, BP 100s-120s/60s-70s, HR ___, RR 18, 94/RA
I/O: Since MN; ___, Yest: 2L/3.7L
Gen: NAD, interactive
HEENT: Anicteric, MMM, OP clear, no mucositis
CV: RRR, nl S1/S2, no m/r/g noted
___: CTAB anteriorly
Ext: left lower extremity with resolving erythematous plaques. 
O/w, 2+ pitting edema in L foot, 1+ in R foot.
Neuro: MAE, grossly intact. 

 
Pertinent Results:
ADMISSION LABS
--------------
TOXOPLASMA IgG ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgG ANTIBODY BY EIA. 
      0.0 IU/ML. 
      Reference Range:  Negative < 4 IU/ml, Positive >= 8 IU/ml. 


   TOXOPLASMA IgM ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
      The FDA is advising that the result from any one 
toxoplasma IgM
      commercial test kit should not be used as the sole 
determinant of
      recent toxoplasma infection when screening a pregnant 
patient. 
___:
INDICATION: An ___ female with left leg pain. 
  
COMPARISON: PET/CT available from ___. 
  
TECHNIQUE: Ultrasonography of the left lower extremity. 
  
FINDINGS: Grayscale and color Doppler ultrasonography of the 
left lower 
extremity demonstrates normal flow, compressibility, and 
augmentation of the left common femoral, superficial femoral, 
and popliteal veins. Numerous hypoechoic lesions are present 
throughout the left leg, compatible with known history of 
multiple masses, better viewed on the ___ PET/CT 
examination. The calf veins could not be assessed due to 
multiple soft tissue masses and associated soft tissue swelling. 

IMPRESSION: Calf veins not assessed due to soft tissue mass. 
Otherwise, no 
DVT is seen. 
SPECIMEN: BONE MARROW ASPIRATE AND CORE BIOPSY:

 

DIAGNOSIS:

- NORMOCELLULAR BONE MARROW FOR AGE WITH MATURING TRILINEAGE 
HEMATOPOIESIS.

- NO MORPHOLOGIC FEATURES OF INVOLVEMENT BY LYMPHOMA ARE SEEN, 
SEE NOTE.

CTA Head:
IMPRESSION:  
  
1. Areas of apparently decreased blood flow and blood volume 
with minimal 
increased MTT in the region of edema surrounding the left 
frontal mass lesion is difficult to assess for 
ischemia/infarction in the setting of edema. Small area of 
mildly increased MTT in the right temporal lobe anteriorly 
without significant decrease in blood volume may be artifactual 
or related to a focus of ischemia/infarction . MRI is 
recommended for better assessment. Findings were discussed with 
Dr. ___ by Dr. ___ after the study was performed. 
  
2. Small irregular partially calcified focus in the right lung 
apex 
posteriorly- needs correlation with dedicated chest imaging to 
exclue 
neoplastic etiology though this can relate to granulomatous 
disease. 
  
3. Moderate mucosal thickening in the ethmoid air cells and left 
side of  
sphenoid sinus with aerosolized secretions.  
ECHO:
Conclusions :The left atrium and right atrium are normal in 
cavity size. The estimated right atrial pressure is ___ mmHg. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
The estimated cardiac index is normal (>=2.5L/min/m2). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened. 
There is mild aortic valve stenosis (valve area 1.2-1.9cm2). 
Trace aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. IMPRESSION: Mild aortic valve stenosis. 
Mild symmetric left ventricular hypertrophy with preserved 
global and regional biventricular systolic function. Pulmonary 
artery systolic hypertension.
 
MRI OF THE BRAIN WITH AND WITHOUT CONTRAST 
  
CLINICAL INDICATION: ___ woman with new diagnosis of 
lymphoma, 
admitted with falls and to have a possible brain metastases, 
evaluate for 
lymphoma and leptomeningeal disease. 
  
COMPARISON: Prior head CT dated ___. 
  
TECHNIQUE: Pre-contrast axial and sagittal images were obtained, 
axial FLAIR, axial T2, axial magnetic susceptibility and axial 
diffusion-weighted sequences. The T1-weighted images were 
repeated after the administration of gadolinium contrast in 
axial T1, sagittal MP-RAGE and also multiplanar reconstructions 
were provided. 
  
FINDINGS: On the left frontal subcortical white matter, there is 
an enhancing mass lesion, measuring approximately 21 x 20 mm in 
transverse dimension by  21.5 x 2.0 mm in sagittal projection, 
this lesion demonstrates significant vasogenic edema and mild 
effacement of the sulci at the convexity with minimal shifting 
of the frontal lobe towards the right, there is no evidence of 
hydrocephalus. The T2 and FLAIR sequences, demonstrates multiple 
scattered foci of high signal intensity, distributed in the 
subcortical white matter, which are nonspecific and may reflect 
chronic microvascular ischemic disease.   
No other enhancing lesions are noted throughout the brain, there 
is no 
evidence of abnormal leptomeningeal enhancement to suggest 
meningeal 
infiltration. Normal flow void signal is noted at the major 
vascular 
structures. The diffusion-weighted sequences are normal with no 
evidence of acute or subacute ischemic changes. The mass lesion 
demonstrates moderate restricted diffusion. 
  
The orbits, the paranasal sinuses and the mastoid air cells are 
grossly 
unremarkable. 
  
IMPRESSION: Enhancing mass lesion identified at the subcortical 
white matter of the left frontal lobe as described in detail 
above, possibly representing a metastatic lesion versus a 
primary brain neoplasm, associated with vasogenic edema and 
effacement of the sulci. 
STUDY: MRI of the cervical, thoracic, and lumbar spine. 
  
CLINICAL INDICATION: ___ woman with newly diagnosed 
lymphoma, 
admitted with falls and found to have a possible brain 
metastases, evaluate for leptomeningeal spread or lymphoma. 
  
COMPARISON: Prior CT of the cervical spine dated ___. 
  
MRI OF THE CERVICAL SPINE: 
  
Sagittal T1, T2 and sagittal STIR sequences were obtained, axial 
T2 and 
gradient echo sequences. The T1-weighted images were repeated 
after the 
administration of gadolinium contrast material. 
  
FINDINGS: There is mild straightening and reversal of the normal 
cervical 
lordosis with degenerative anterolisthesis at C4 upon C5 level. 
The signal 
intensity in the spinal cord throughout the cervical spine is 
normal with no evidence of focal or diffuse lesions to indicate 
spinal cord edema or cord expansion. 
  
Multilevel degenerative changes are visualized throughout the 
cervical spine as follows: 
  
At C3/C4 level, bilateral uncovertebral hypertrophy is 
identified, causing 
mild bilateral neural foraminal narrowing, there is no 
significant spinal 
canal stenosis. 
  
C4/C5 demonstrates posterior central disc bulge and bilateral 
uncovertebral hypertrophy, causing anterior thecal sac deformity 
and mild bilateral neural foraminal narrowing. 
  
At C5/C6 level, bilateral uncovertebral hypertrophy is noted and 
also mild 
posterior disc bulge. 
  
C6/C7 level demonstrates posterior disc bulge and bilateral 
uncovertebral 
hypertrophy, left greater than right, causing left side neural 
foraminal 
narrowing (image 35, series 5014). 
  
The visualized paravertebral structures are normal, there is no 
evidence of abnormal enhancement. 
  
IMPRESSION: Multilevel degenerative changes throughout the 
cervical spine as described above, there is no evidence of 
abnormal enhancement or abnormal signal within the cervical 
spinal cord. 
  
MRI OF THE THORACIC SPINE. 
  
The alignment and configuration of the thoracic vertebral bodies 
is normal.  High signal intensity is noted throughout the 
vertebral bodies in the bone marrow, likely consistent with bone 
marrow replacement for fat. 
  
At T2/T3 level, minimal posterior central disc bulge is 
identified with no 
evidence of neural foraminal narrowing or spinal canal stenosis. 

  
From T3/T4 through T8/T9 levels, there are mild posterior disc 
bulges with no evidence of neural foraminal narrowing or 
significant spinal canal stenosis. 
  
Signal intensity throughout the thoracic spinal cord is normal 
and the conus medullaris terminates at the level of T12. There 
is no evidence of abnormal enhancement. 
  
IMPRESSION: Mild multilevel degenerative changes throughout the 
thoracic 
spine as described above, there is no evidence of abnormal 
enhancement. 
  
MRI OF THE LUMBAR SPINE: 
  
There is mild grade 1 anterolisthesis at L4 upon L5 level, 
apparently 
degenerative in nature. At L2/L3 level, there is disc 
desiccation and mild 
posterior disc bulge, causing mild bilateral neural foraminal 
narrowing, there is also mild articular joint facet hypertrophy 
(image 4, series 5002). 
  
At L3/L4 level, there is a prominent posterior disc bulge, 
asymmetric towards the right, causing significant neural 
foraminal narrowing and moderate spinal canal stenosis, there is 
also articular joint facet hypertrophy. The psoas muscle on the 
right, demonstrates a focal lesion, possibly consistent with a 
hematoma, calcification, formally a metastasis in this area 
cannot be completely excluded (image 9, 10, series 5002), this 
lesion measures approximately 19 x 23 mm in transverse 
dimension. 
  
L4-L5 level demonstrates disc degenerative changes with 
posterior broad-based disc bulge, causing anterior thecal sac 
deformity and bilateral neural foraminal narrowing, there is 
also moderate articular joint facet hypertrophy, resulting in 
moderate-to-severe spinal canal stenosis. 
  
L5-S1 level demonstrates posterior disc bulging, causing 
anterior thecal sac deformity and apparently contacting the 
traversing nerve roots bilaterally, there is also moderate 
articular joint facet hypertrophy resulting in moderate spinal 
canal stenosis. There is no evidence of abnormal enhancement to 
indicate leptomeningeal disease. 
  
IMPRESSION: Multilevel degenerative changes throughout the 
cervical, 
thoracic, and lumbar spine as described in detail above. There 
is a focal 
lesion within the right psoas at the level of L3/L4, possibly 
consistent with a hematoma, calcification, formally a metastasis 
in this area cannot be completely excluded. 
  
There is no evidence of abnormal enhancement to indicate 
leptomeningeal 
disease. Diffuse high signal intensity in the bone marrow, 
possibly 
representing bone marrow replacement for fat. 
PET: IMPRESSION: 1. 2-cm intracranial lymphoma metastasis in the 
left frontal lobe. 2. Moderate intramuscular lymphoma disease in 
the left biceps and right psoas 3. Extensive lymphoma disease in 
the left calf with mild regional spread to the left thigh and 
left inguinal nodes. 

BONE MARROW CYTOGENETICS ___
INTERPRETATION:  
No cytogenetic aberrations were identified in 20 
metaphases analyzed from this unstimulated specimen. 
This normal result does not exclude a neoplastic 
proliferation. 
 
Mosaicism and small chromosome anomalies may not be 
detectable using the standard methods employed. 

LENIs ___:
IMPRESSION: Calf veins not assessed due to soft tissue mass. 
Otherwise, no 
DVT is seen. 
CT HEAD ___
IMPRESSION: 
Stable appearance to left frontal lobe mass. No new areas of 
abnormality. 
  
A few hypodense areas are noted in the left temporal lobe, not 
significantly changed from recent CT Head study; however, can be 
better assessed with MR if necessary.  
EEG ___
IMPRESSION: This is an abnormal video EEG telemetry due to the 
persistent fixed focal slowing in the mixed theta and delta 
frequency 
range in the left frontal temporal region indicative of 
subcortical 
dysfunction. Rare sharp waves were also seen in the left 
temporal 
region phase reversing at F7, which may be indicative of an area 
of 
cortical irritability, but no clear electrographic seizures were 
seen. 
A breach rhythm was also noted in the left frontal temporal area 
likely 
due to a skull defect. Otherwise, the waking background was slow 
and 
disorganized with bursts of generalized slowing indicative of a 
mild to 
moderate encephalopathy. Toxic/metabolic disturbances, 
infections, and 
medication effects are among the most frequent causes of 
encephalopathy. 
CXR ___
IMPRESSION: Right-sided PICC line should be withdrawn 
approximately 3 cm for more optimal positioning. 
EEG ___
IMPRESSION: This is an abnormal 24-hour video EEG telemetry due 
to the 
presence of rare epileptiform discharges in the left temporal 
region 
indicative of an area of cortical irritability; however, no 
clear 
electrographic seizures were seen. Focal slowing was also seen 
in the 
same region along with higher amplitude activity due to a breach 
effect 
typically associated with skull defects. The background was 
better 
developed reaching a maximum of 8 Hz during the recording and 
more 
wakeful periods were seen overall. Overall, this record is 
improved 
compared to the previous day. 
MRI HEAD ___
CONCLUSION: 
1. No evidence of a second lesion in the temporal lobe. 
2. Increase in the volume of enhancing material and in 
surrounding edema in the left frontal lobe. This may represent 
tumor progression, or early 
response to radiation. 
CT HEAD ___
IMPRESSION: 
  
In comparison to ___ exam, left frontal vasogenic edema 
appears 
improved. The left frontal hyperdense lesion is not well 
visualized on 
current study, which may be reflective of its reduction in size. 
There is no acute intracranial hemorrhage or infarction. 

 
Brief Hospital Course:
___ ___ speaking only with a history of diabetes type II, 
some degree of chronic kidney disease with unknown baseline 
creatinine, HTN, and recently diagnosed diffuse large b-cell 
lymphoma who presented with a fall and found to have a L frontal 
lesion concerning for metastatic disease. 
.
# Frontal mass: Patient presented with 1 week of confusion and a 
fall from a baseline of being independent in all ADLs, including 
doing her own shopping.  Patient had a CT head that was further 
characterized by MRI which showed a 20mm x 20mm lesion with 
surrounding vasogenic edema.  Given the patient's recent 
diagnosis of Diffuse Large B Cell Lymphoma and uptake on PET 
scan the most likely etiology was felt to be lymphoma.  However, 
toxo was ruled out with serum testing.  And given that the 
B-cell lymphoma does not typically metastasize to the brain 
(though cutaneous DLBCL has more predelection) onc, neuro-onc 
were consulted and it was felt that brain biopsy would be the 
best diagnostic test.  The patient underwent sterotactic brain 
biopsy with neurosurgery on ___ and the results showed 
CD20+ cells consistent with lymphoma and the patient was 
transferred to the heme/malignancy service for further 
management.  Patient received one dose of Cyberknife radiation 
treatment, and for DLBCL, underwent systemic chemotherapy, see 
below.  She was started on keppra and dexamethasone, and 
dexamethasone was slowly tapered down as per neuro-onc recs.  
She is being discharged on 2 mg PO dex BID, and will be tpaered 
to 2 mg PO daily after 1 week as per neuro onc recs.  She is to 
continue on this until her Neuro-onc appt in ___.
.
# DLBCL: Diagnosed on leg biopsy 2 weeks prior to appointment.  
Patient had seen an outpatient oncologist and had a CT Torso 
that was basically unremarkable.  Family meeting was held with 
ONC/Neuro-ONC, SW and medicine to determine if the patient 
wanted to pursue treatment.  After careful discussion with the 
patient and her family, it appeared that the patient would want 
to pursue chemo if that was clinically indicated, including 
intrathecal chemo.  She had a PET and a bone marrow biopsy for 
staging.  PET showed likely mets to the psoas and biceps and 
brain. Bone marrow biopsy of the ischial spine showed no bone 
marrow involement.  Patient was transferred to the Oncology 
service with plan for For R-CHOP.  CHOP was started on ___.  
Rituxan was dosed after CHOP was started, and her tumor lysis 
labs were checked Q8H-Q12H.  Rituxan dose was delayed given 
frequent unresponsive episodes, however with improving MS, we 
were able to dose on ___.  In terms of cutaneous 
manifestations, the pt's LLE improved significantly with R-CHOP. 
 Her counts were trended, but she did not require transfusions.  
Her nadir in terms of ANC was on ___ with an ANC of 140, at 
which point she was placed on neutropenic precuations.  She was 
briefly on neupogen, and on day of discharge, her ANC was >1000. 
 She was also discharged on regular ppx medications (acyclovir, 
bactrim, and allopurinol ___.
.
# Unresponsiveness: The day prior to the brain biopsy, the 
patient was noted to be acutely lethargic and appeared unable to 
move her left side.  Code stroke was called and patient was 
taken down for CTA/CT perfusion of brain which did not show any 
evidence of stroke or change in mass effect.  Without 
intervention the patient was back to her baseline in about 1.5 
hours.  Given this rapid improvement, it was felt this episode 
was likely a seizure.  She was loaded with keppra and continued 
on Keppra 500 BID.  She was also given a dose of 10IV 
Dexamethasone followed by 4IV q8h for mass.  Although this was 
felt to possibly worsen the chances of getting a good biopsy it 
was clearly clinically indicated for emergency management.  
Patient was continued on Dexamethasone and Keppra, and had 
further episodes.  Neuro c/s felt that these episodes were more 
c/w volitional episodes, and each episode had urgent evaluation. 
 A CT head was done during an episode which showed no bleed.  
These episodes began to decrease in frequency by day 7 after 
CHOP initiation.  Her keppra was also decreased to 250 BID out 
of concern that her unresponsive may be ___ the high keppra 
dose.  EEG were negative for seizure activity, and these 
episodes did continue despite normal calcium level.
.
# Hypercalcemia: Likely ___ malignancy, PTH was low/normal.  
HCTZ was held.  Patient given IVF on admission and calcium 
remained between 11 and 11.5.  She also received a dose of IV 
pamidronate.  This improved with treatment of lymphoma, and was 
stable by day of transfer to OMED service.  This was trended, 
and did not recur after R-CHOP was initiated.
.
#  Leg Pain: ___ pain on DLBCL nodules.  ___ was negative for 
clot.  Pain controlled with lidocaine patch, oxycodone 2.5 mg po 
bid and IV toradol that was transitioned to ibuprofen.  Patient 
received IV morphine but this cause urinary rentention and 
delerium.  Patient continued to have urinary retention so 
oxycodone was stopped as well.  She did receive some doses while 
on BMT of oxycodone with good effect (although small doses did 
make her quite somnolent).  This was improved with chemotherapy.
.
# HTN: HCTZ held given hypercalcemia and the patient then had 
high normal BP, so nifedipine was uptitrated from 30 to 90/day 
and continued on metoprolol.
.
# Diabetes:  Held home Rosiglitazone, Glipizide, and Metformin 
___ imaging studies.  Patient's sugars were well controlled on 
sliding scale insulin until she started Dexamethasone and then 
were in the 300-400 range.  She was started on 10 units of 
lantus at night and this was uptitrated to 16 units with 
increasing doses of steroid.  The patient's blood sugar will 
need to be closely followed as her steroid dose is tapered and 
likely titrated down.  Upon discharge, she was restarted on her 
home hypoglycemics with a SSI to cover her.  She could 
potentially have lantus restarted if her blood sugars are too 
high.  A SSI was printed out for use at rehab.
.
# Anemia: Stable throughout admission, iron  supplements were 
continued.  With chemo, counts trended but as above, transfusion 
of 1 u PRBC was done on day prior to discharge as we expect her 
Hct to trend downward.
.
# Mild AS: Patient had an echo on admission given her fall. The 
patient has mild aortic valve stenosis. Based on ___ ACC/AHA 
Valvular Heart Disease Guidelines, a follow-up echocardiogram is 
suggested in ___ years. 

TRANSITIONS OF CARE ISSUES
# Comm: Daughter ___ ___ (C); Son ___ ___ 
(c); Daughter in Law ___ wife) ___ (c).  
# Code: DNR/DNI
# F/U appt: 10 am on ___ with Dr. ___ Dr. 
___

 
___ on Admission:
Trazodone 50 mg PO QHS 
Colace 100 mg PO BID 
Nifedipine 30 mg PO Daily 
Aspirin 81 mg PO Daily 
Avandia 2 mg PO BID 
Bactrim DS 800 mg-160 mg PO BID 
Glipizide 5 mg PO Daily 
Metformin 500 mg PO Daily 
Hydrochlorothiazide 25 mg PO Daiky  
Metoprolol Succinate 25 mg PO Daily 
Percocet ___ mg PO q6 hrs PRN pain 
Lipitor 10 mg Daily 
Ambien 10 mg QHS 
Iron ER 325 mg PO Daily  
Tylenol-Codeine 30 mg PO Daily 
Senna 8.6 mg PO PRN constipation 
Multivitamin daily 
Alphagan eyedrops 

 
Discharge Medications:
1. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen. 
2. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
4. levetiracetam 250 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
5. nifedipine 90 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
6. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
7. heparin (porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day): hold for plt<50.  
8. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
10. cyanocobalamin (vitamin B-12) 250 mcg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
11. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily) as needed for constipation.  
12. bacitracin zinc 500 unit/g Ointment Sig: One (1) Appl 
Topical QID (4 times a day).  
13. metoprolol succinate 25 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
14. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. saliva substitution combo no.2     Solution Sig: Thirty (30) 
ML Mucous membrane QID (4 times a day): Until instructed to 
stop.  
17. insulin aspart 100 unit/mL Solution Sig: see directions  
Subcutaneous see directions.  
18. acetaminophen 650 mg Tablet Sig: One (1) Tablet PO four 
times a day as needed for pain.  
19. Avandia 2 mg Tablet Sig: One (1) Tablet PO twice a day.  
20. glipizide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
21. metformin 500 mg Tablet Sig: One (1) Tablet PO once a day.  
22. Alphagan P  Ophthalmic
23. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 hours) 
as needed for pain.  
24. dexamethasone 2 mg Tablet Sig: One (1) Tablet PO daily to 
Q12 (see below): Take 1 tab POBID until ___ decrease to 
1 tab daily starting ___.  
25. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
26. allopurinol ___ mg Tablet Sig: One (1) Tablet PO once a day. 
 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Diffuse Large B Cell Lymphoma, metastatic to biceps, psoas and 
brain
Hypertension
Diabetes Type 2

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You came to the hospital after falling at home.  We found that 
you had a brain mass.  We did a biopsy of this that showed 
lymphoma.  We started steroids and medicine to prevent seizures 
for you.  You were seen by oncology and neuro-oncology and 
transferred to the oncology service where you received 
chemotherapy.  You also received cyberknife for the brain mass.  
You tolerated these treatments well.  You also had neurology see 
you and we made sure there was nothing dangerous causing your 
episodes of unresponsiveness.  We started a medicine to help 
with your blood counts, and you will require frequent follow up 
at ___ for further care.

We made the following changes to your medications (There have 
been many changes.  For a complete list please see the 
medication list).
- START taking ALLOPURINOL ___ mg by mouth daily
- START taking ACYCLOVIR 400 mg by mouth three times daily
- START taking BACTRIM single strength tab by mouth daily
- INCREASE your NIFEDIPINE CR to 90 mg by mouth daily
- START taking VITAMIN B12 250 mg by mouth daily
- START taking CAPHOSOL 30cc by mouth swish and spit four times 
a day
- START taking VITAMIN C 500 mg by mouth daily 
- START taking NYSTATIN swish and swallow 5 cc by mouth four 
times a day as needed for thrush
- START using sliding scale insulin (see attached sheet)
- START taking DEXAMETHASONE 2 mg by mouth twice daily, DECREASE 
this dose to 2 mg by mouth daily on ___ to continue
- START taking OXYCODONE 2.5 MG by mouth every 6 hours as needed 
for pain
- START taking PROTONIX 40 mg by mouth daily
- STOP TAKING Bactrim DS, trazodone, aspirin, 
hydrochlorothiazide, lipitor, ambien, tylenol-codeine, percocet
.
You should follow up with your doctors as below.
 
Followup Instructions:
___